US07319103B2
A solution of 2-oxo-cycloheptanecarboxylic acid methyl ester (5 g, 29.4 mmol) and 2H-pyrazol-3-ylamine (2.44 g, 29.4 mmol) in acetic acid (5 mL) was heated at 100° C. for 1 hour and resulted in the formation of a colorless precipitate. The solid was collected via filtration and washed with ethanol and ethyl ether to give 6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-ol (5 g, 85% yield). The product was used without further purification.

reactant | 2-oxo-cycloheptanecarboxylic acid methyl ester | 29.4 mmol, 5 g | COC(=O)C1C(CCCCC1)=O | C9H14O3
reactant | 2H-pyrazol-3-ylamine | 29.4 mmol, 2.44 g | N=1NC(=CC1)N | C3H5N3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-ol | 5 g, 85% yield | N1=CC=C2N=C3C(=C(N12)O)CCCCC3 | C11H13N3O
